US06552067B2
Step C: 4-{2-[2-(3-Hydroxy-4-phenyl-butyl)-5-oxo-pyrrolidin-1-yl]-ethoxy}-benzoic acid.
Analogous to the procedure described for Example 1A, Step F, 4-{2-[2-(3-hydroxy-4-phenyl-butyl)-5-oxo-pyrrolidin-1-yl]-ethoxy}-benzoic acid ethyl ester (52 mg, 0.122 mmol) was hydrolyzed with 6N NaOH (1 mL) to yield the title compound (41.5 mg). 1H NMR (CDCl3) δ7.98 (d, 2H), 7.32-7.16 (m, 5H), 6.85 (m, 2H), 4.13 (m, 2H), 3.92 (m, 1H), 3.81 (m, 1H), 3.75 (m, 1H), 3.40 (m, 1H), 2.82 (m, 1H), 2.66 (m, 1H), 2.36 (m, 2H), 2.10 (m, 2H), 1.70-1.34 (m, 5H); MS 398.4 (M+1), 396.3 (M−1).

reactant | 4-{2-[2-(3-hydroxy-4-phenyl-butyl)-5-oxo-pyrrolidin-1-yl]-ethoxy}-benzoic acid ethyl ester | 0.122 mmol, 52 mg | C(C)OC(C1=CC=C(C=C1)OCCN1C(CCC1=O)CCC(CC1=CC=CC=C1)O)=O | C25H31NO5
reactant | NaOH | 6N, 1 mL | [OH-].[Na+]
product | 4-{2-[2-(3-Hydroxy-4-phenyl-butyl)-5-oxo-pyrrolidin-1-yl]-ethoxy}-benzoic acid | 41.5 mg | OC(CCC1N(C(CC1)=O)CCOC1=CC=C(C(=O)O)C=C1)CC1=CC=CC=C1 | C23H27NO5
